data/mechanism_extracts/ChemAsianJ/10.1002_asia.202100121.json
{"doi": "10.1002_asia.202100121", "journal": "ChemAsianJ", "is_review": false, "rxn_class_summary": "Manganese-catalyzed electrochemical oxidative azidation-annulation cascade of N-arylacrylamides and N-arylcinnamamides with NaN3 to give azidated oxindoles and quinolinones.", "mechanism_family": ["mediator_anodic", "radical_anodic", "electrocatalysis_inner_sphere"], "electrochemical_role": "Anodic oxidation of a Mn(II)-N3 complex to a high-valent Mn(III)-N3 species which transfers azide to the alkene; the resulting cyclohexadienyl radical is further anodically oxidized to a cation that rearomatizes; H2 is evolved at the Pt cathode.", "key_intermediates": [{"name": "Mn(II)-N3 complex (A)", "smiles": null, "role": "resting_state"}, {"name": "Mn(III)-N3 complex (B)", "smiles": null, "role": "reactive"}, {"name": "tertiary C-radical from azide addition to acrylamide (C)", "smiles": null, "role": "reactive"}, {"name": "benzylic/resonance-stabilized radical from azide addition to cinnamamide (C')", "smiles": null, "role": "reactive"}, {"name": "cyclohexadienyl radical after ipso radical annulation onto N-aryl ring (D/D')", "smiles": null, "role": "transient"}, {"name": "Wheland-type cation after anodic SET oxidation (E/E')", "smiles": null, "role": "transient"}, {"name": "azidated oxindole 2a", "smiles": null, "role": "reactive"}, {"name": "azidated quinolinone 4a", "smiles": null, "role": "reactive"}], "electron_flow": "NaN3 binds Mn(II) to give Mn(II)-N3 (A), which is anodically oxidized by one electron to Mn(III)-N3 (B); B delivers an azidyl group to the alkene of the N-arylacrylamide/cinnamamide producing a C-centered radical (C/C'), which undergoes intramolecular radical annulation onto the N-aryl arene (D/D'); a second anodic SET gives cationic E/E', and deprotonative rearomatization yields the azidated oxindole or quinolinone, while protons are reduced to H2 at the Pt cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "N-arylcinnamamide / N-arylacrylamide (substrate)", "smiles": null, "purpose": "redox_probe", "observation": "CV shows oxidation up to ~2.5 V (1.87 V peak), substrate not directly oxidized under operating conditions."}, {"name": "NaN3", "smiles": "[Na+].[N-]=[N+]=[N-]", "purpose": "redox_probe", "observation": "CV shows oxidation peak at 1.03 V."}, {"name": "MnBr2", "smiles": "Br[Mn]Br", "purpose": "redox_probe", "observation": "Two quasi-reversible oxidation peaks at 0.75 and 0.86 V assigned to Mn(II)/Mn(III) and free bromide oxidation."}, {"name": "NaN3 + MnBr2 mixture", "smiles": null, "purpose": "redox_probe", "observation": "Azide oxidation peak shifts to 0.43 V, consistent with formation of Mn(II)-N3 / Mn(III)-N3 adduct that is more easily oxidized."}], "evidence_types_used": ["cyclic_voltammetry"], "evidence_strength": "weak", "notes": "An 'additional pathway' is depicted in Scheme 5 in which free azidyl radical (generated by direct anodic oxidation of N3-) adds to the alkene, offering an alternative to the favored Mn(III)-N3 inner-sphere azide transfer. Regioselectivity is rationalized by stability of the resulting radical (3° tertiary radical C for acrylamides, benzylic radical C' for cinnamamides). No radical trapping (TEMPO/BHT), KIE, or DFT experiments are reported in the shown pages."}
